US08183380B2
rac-1-[2-(4,6-Dichloro-7-methoxy-indan-1-ylamino)-quinolin-6-yl]-3-isopropyl-urea
The title compound was prepared in accordance with the general method described in example 3 from isopropyl isocyanate and rac-N2-(4,6-dichloro-7-methoxy-indan-1-yl)-quinoline-2,6-diamine; MS: m/e=460.6 (M+H+).

reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
reactant | rac-N2-(4,6-dichloro-7-methoxy-indan-1-yl)-quinoline-2,6-diamine | ClC1=C2CCC(C2=C(C(=C1)Cl)OC)NC1=NC2=CC=C(C=C2C=C1)N | C19H17Cl2N3O
product | rac-1-[2-(4,6-Dichloro-7-methoxy-indan-1-ylamino)-quinolin-6-yl]-3-isopropyl-urea | ClC1=C2CCC(C2=C(C(=C1)Cl)OC)NC1=NC2=CC=C(C=C2C=C1)NC(=O)NC(C)C | C23H24Cl2N4O2
